.SUBCKT main
r10 0 0 0
c0 0 0 0
c1 0 0 0
c7 0 0 0
c8 0 0 0
r11 0 0 0
r4 0 0 0
r8 0 0 0
r3 0 0 0
r1 0 0 0
c3 0 0 0
r2 0 0 0
c5 0 0 0
r7 0 0 0
c2 0 0 0
r9 0 0 0
c6 0 0 0
r0 0 0 0
r6 0 0 0
c4 0 0 0
r5 0 0 0
.ENDS
.END